US04810800
1,3-Dihydro-1-(2-thienylmethyl)-2H-imidazole-2-thione
Under a blanket of nitrogen, 11.3 g (0.1 mol) 2-aminomethylthiophene is added to 19.6 g (0.11 mol) 1,1'-thiocarbonyldiimidazole in 200 ml anhydrous toluene at 0° C. The reaction is held at 0° C. for 4 hours. Then 10.5 g (0.1 mol) aminoacetaldehyde dimethyl acetal is added and the reaction is warmed at 80° C. for 2 hours. The toluene is removed and the residue dissolved in 100 ml ethanol, 15 ml water and 15 ml concentrated HCl. The mixture is refluxed 5 hours, cooled and poured onto 1 liter of ice. After recrystallization (1/1 EtOH/H2O) the desired product is obtained as white shiny crystals, mp 128°-130° C.

reactant | 2-aminomethylthiophene | 0.1 mol, 11.3 g | NCC=1SC=CC1 | C5H7NS
reactant | 1,1'-thiocarbonyldiimidazole | 0.11 mol, 19.6 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | aminoacetaldehyde dimethyl acetal | 0.1 mol, 10.5 g | COC(CN)OC | C4H11NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dihydro-1-(2-thienylmethyl)-2H-imidazole-2-thione | S1C(=CC=C1)CN1C(NC=C1)=S | C8H8N2S2
